US03931156
6-bromo-7-cyano-2,3-dihydro-1H-pyrrolo[1,2-a]benzimidazole:
9.2 g of 6-bromo-7-amino-2,3-dihydro-1H-pyrrolo[1,2-a]benzimidazole are dissolved in a mixture of 30 cm3 of water and 9 cm3 of hydrochloric acid. Diazotation is carried out with a solution of 2.5 g of sodium nitrite in 15 cm3 of water. The diazonium salt is neutralized with sodium carbonate and while stirring poured into a solution of 6.89 g of cuprous cyanide and 12.3 g of potassium cyanide in 100 cm3 of water. Stirring is continued for 30 min at room temperature and a further 15 min on a water-bath at 50° to 60°C. After cooling, the precipitate is sucked off. The base is purified by sublimation (200°C/2mm Hg) and recrystallized from a mixture of benzene and n-hexane. Melting point: 224°C. Yield: 4.7 g.

reactant | 6-bromo-7-amino-2,3-dihydro-1H-pyrrolo[1,2-a]benzimidazole | 9.2 g | BrC1=CC2=C(N3C(=N2)CCC3)C=C1N | C10H10BrN3
reactant | sodium nitrite | 2.5 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium cyanide | 12.3 g | [C-]#N.[K+]
solvent | water | 30 cm3 | O | H2O
solvent | hydrochloric acid | 9 cm3 | Cl | ClH
solvent | water | 15 cm3 | O | H2O
solvent | water | 100 cm3 | O | H2O
product | 6-bromo-7-cyano-2,3-dihydro-1H-pyrrolo[1,2-a]benzimidazole | BrC1=CC2=C(N3C(=N2)CCC3)C=C1C#N | C11H8BrN3
